US07435738B2
Preparation of N-(5-chloro-2-hydroxyphenyl)acetamide
143.6 g (1 mole) of 2-amino-4-chlorphenol was suspended in 550 ml of methyl t-butyl ether under mild nitrogen purge. The mixture was heated to reflux until the material was dissolved. In 40 minutes 112.3 g of acetic anhydride was added. After the addition the mixture was cooled to 20-25° C. in one hour. After stirring for an additional hour the mixture was cooled to 0-5° C. under stirring and kept on this temperature for an additional hour. The product was filtered off, washed with 200 ml of methyl t-butyl ether twice and dried at 50° C. and 100 mbar under a gentle nitrogen stream till dry. Yield about 92%.

reactant | 2-amino-4-chlorphenol | 1 mole, 143.6 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | methyl t-butyl ether | 550 ml | C(C)(C)(C)OC | C5H12O
product | N-(5-chloro-2-hydroxyphenyl)acetamide | Yield about 92% | ClC=1C=CC(=C(C1)NC(C)=O)O | C8H8ClNO2
